US07795280B2
c) 1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indol-6-ylamine (Compound 57, Structure 23 of Scheme V, where R1=3,5-difluorophenyl. R2=2-nitrophenyl, R3=R4=H)
To a solution of 1-(3,5-Difluoro-benzyl)-1H-indol-6-ylamine (25 mg, 0.1 mmol) in DCM (4 mL) was added 2-nitrobenzenesulfenyl chloride. The resulting yellow solution was stirred at room temperature for 1 hour. The mixture was concentrated in vacuo and purified over a SiO2 column (heptane/ethyl acetate 9:1) to give the title compound as an orange solid (11.6 mg, yield=28%).

reactant | 1-(3,5-Difluoro-benzyl)-1H-indol-6-ylamine | 0.1 mmol, 25 mg | FC=1C=C(CN2C=CC3=CC=C(C=C23)N)C=C(C1)F | C15H12F2N2
reactant | 2-nitrobenzenesulfenyl chloride | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indol-6-ylamine | 11.6 mg, yield=28% | FC=1C=C(CN2C=C(C3=CC=C(C=C23)N)SC2=C(C=CC=C2)[N+](=O)[O-])C=C(C1)F | C21H15F2N3O2S
